US04564685
To a stirred solution of the above 3-(3-pyrrolidino-1-(4-tolyl)-prop-1E-enyl)benzyl alcohol (1.1 g) in dichloromethane (75 mL) was added barium manganate (Firouzabadi and Ghaderi, Tetrahedron Letters, 1978, 839) and the mixture was kept at 40° for 7 hours, and left at room temperature for 16 hours. The solid was removed by filtration and the filtrate was evaporated to give the crude 3-(3-pyrrolidino-1-(4-tolyl)prop-1E-enyl)benzaldehyde (1.09 g) which was not further purified. To a stirred suspension of sodium hydride (107 mg; 80% oil suspension) in 1,2-dimethoxyethane (3.7 mL) was added diethyl methoxycarbonylmethyl-phosphonate (740 mg) in 1,2-dimethoxyethane (3.7 mL). After 15 minutes' stirring, a solution of the above (E)-aldehyde (1.09 g) in 1,2-dimethoxyethane (3.7 mL) was added dropwise and the mixture was stirred for 18 hours at room temperature. After addition of water and acidification with dilute hydrochloric acid, the suspension was washed with ether, and the clear aqueous solution was basified with sodium carbonate solution and the precipitated oil was extracted into ether. The washed and dried ether solution was evaporated to leave a solid (800 mg) which was dissolved in ethanol and refluxed with Girard reagent P (200 mg) for 1 hour. The solvent was evaporated, water and ether were added and the ether extract was washed, dried and evaporated to leave methyl (E)-3-(3-pyrrolidino-1-(4-tolyl)prop-1E-enyl)cinnamate, m.p. 102°-107° (620 mg).

reactant | 3-(3-pyrrolidino-1-(4-tolyl)-prop-1E-enyl)benzyl alcohol | 1.1 g | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C=1C=C(CO)C=CC1 | C21H25NO
reactant | barium manganate | [Mn](=O)(=O)([O-])[O-].[Ba+2]
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 3-(3-pyrrolidino-1-(4-tolyl)prop-1E-enyl)benzaldehyde | 1.09 g | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C=1C=C(C=O)C=CC1 | C21H23NO
